US05037917
Into a 2 liter 5-necked round bottom flask fitted with a mechanical stirrer, Dean-Stark trap topped with a nitrogen padded reflux condenser and a thermocouple attached to a temperature controller, are placed DMSO (650 ml) and toluene (200 ml). While the stirred solution is purged with nitrogen, 9,9-bis(4'-hydroxyphenyl)fluorene (200.0 g, 0.57 mole) is added to the flask. While purging with nitrogen continues, potassium hydroxide (85% pellets, 77.5 g, 1.17 mole) is added all at once, and the mixture is heated to 100° C. with constant stirring. After two hours, the temperature is increased until the solution begins to reflux (130° C.). Water is removed by azeotropic distillation for 24 hours. The Dean-Stark trap is replaced by a Soxhlet extractor containing anhydrous sodium sulfate, and the toluene is refluxed through the Soxhlet for 5 hours. A small amount of toluene (60 ml) is then removed by simple distillation. Then the reactor is cooled to 35° C. Addition of 1,2-dibromotetrafluoroethane (315 g, 1.21 mole) via dropping addition funnel is then maintained at a rate that keeps the reaction temperature at 35°-38° C. When the addition is complete, the mixture is heated at 50° C. for 8 hours, then cooled to room temperature with constant stirring. The mixture is filtered, and the precipitate is washed twice with acetone. The filtrates are combined and evaporated thoroughly. The residue from the evaporation is washed with water to remove residual potassium bromide (KBr). After the residue is air dried for 24 hours, it is extracted with hexane in a Soxhlet extractor Evaporation of the hexane, followed by column chromatography of the residue (on neutral alumina, using hexane eluent) provides a product, 9,9-bis(4'-[2"-bromotetrafluoroethoxy]phenyl)fluorene (331.4 g, 0.468 mole, 82% yield), melting point 157°-158° C.

reactant | DMSO | 650 ml | CS(=O)C | C2H6OS
reactant | 9,9-bis(4'-hydroxyphenyl)fluorene | 0.57 mole, 200.0 g | OC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)O | C25H18O2
reactant | potassium hydroxide | 1.17 mole, 77.5 g | [OH-].[K+]
reactant | 1,2-dibromotetrafluoroethane | 1.21 mole, 315 g | BrC(C(Br)(F)F)(F)F | C2Br2F4
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 9,9-bis(4'-[2"-bromotetrafluoroethoxy]phenyl)fluorene | 0.468 mole, 331.4 g, 82% yield | BrC(C(OC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)OC(C(Br)(F)F)(F)F)(F)F)(F)F | C29H16Br2F8O2
